US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5,6,7,8-tetrahydro-quinoline-2-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 327 mg (0.81 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 4 mL THF and 527 mg (2.03 mmol) of 2-iodo-5,6,7,8-tetrahydro-quinoline in 2 mL THF with 1.01 mL 2M isopropylmagnesium chloride. Yield: 28 mg of a white powder. LC-MSD, m/z for C25H20BrN3O2 [M+H]+=474.0, 476.0; HPLC retention time: 2.5 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.81 mmol, 327 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
reactant | 2-iodo-5,6,7,8-tetrahydro-quinoline | 2.03 mmol, 527 mg | IC1=NC=2CCCCC2C=C1 | C9H10IN
reactant | isopropylmagnesium chloride | 2M, 1.01 mL | C(C)(C)[Mg]Cl
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5,6,7,8-tetrahydro-quinoline-2-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C1=NC=2CCCCC2C=C1 | C25H20BrN3O2
